US05488108
Preparation of 2,4-Di[2-hydroxy-4-(3-butoxy-2-hydroxypropoxy)phenyl]-6-methoxy-1,3,5-triazine
If the butyl glycidyl ether is replaced by 2-ethylhexyl glycidyl ether, 2,4-di{2-hydroxy-4-[3-(2-ethylhexoxy)-2-hydroxypropoxy]phenyl}-6-methoxy-1,3,5-triazine having a melting point of 98°-99° C. is obtained.

reactant | butyl glycidyl ether | C(C1CO1)OCCCC | C7H14O2
reactant | 2-ethylhexyl glycidyl ether | C(C1CO1)OCC(CCCC)CC | C11H22O2
reactant | 2,4-di{2-hydroxy-4-[3-(2-ethylhexoxy)-2-hydroxypropoxy]phenyl}-6-methoxy-1,3,5-triazine | OC1=C(C=CC(=C1)OCC(COCC(CCCC)CC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCC(CCCC)CC)O)O)OC | C38H57N3O9
product | 2,4-Di[2-hydroxy-4-(3-butoxy-2-hydroxypropoxy)phenyl]-6-methoxy-1,3,5-triazine | OC1=C(C=CC(=C1)OCC(COCCCC)O)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCC(COCCCC)O)O)OC | C30H41N3O9
